// Generated for: spectre
// Generated on: Jun 22 22:09:02 2015
// Design library name: nmos2
// Design cell name: test_inv1
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters Vsup=0.5

// Library name: nmos2
// Cell name: inverter
// View name: schematic
subckt inverter In Out
    I8 (Out In 0) TMDC_nFET
    I7 (Out In vdd!) TMDC_pFET
ends inverter
// End of subcircuit definition.

// Library name: nmos2
// Cell name: test_inv1
// View name: schematic
V1 (vdd! 0) vsource dc=Vsup type=dc
C0 (net7 0) capacitor c=10.00a
V0 (Vin 0) vsource type=pulse val0=0 val1=500.0m period=8p delay=1p \
        rise=100.0f fall=100.0f width=4p
I10 (Vout net7) inverter
I9 (Vout net7) inverter
I8 (Vout net7) inverter
I4 (Vout net7) inverter
I0 (Vin Vout) inverter
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10p write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
ahdl_include "nfet.va"
ahdl_include "pfet.va"
