// netlist file
// res/cap test circuit

simulator lang = spectre

global gnd

ahdl_include "nfet.va"
ahdl_include "pfet.va"

nfet1 (n2 n1 gnd) bal_nFET
pfet1 (n2 n1 n3) bal_pFET
c1 (n2 gnd) capacitor c=2.5u
v1 (n3 gnd) vsource dc=400m
v2 (n1 gnd) vsource dc=400m

saveNodes options save=allpub
save c1
paramSwp dc start=0 stop=400m param=dc dev=v2
//trantran tran stop=100n 

