// netlist file
// res/cap test circuit

simulator lang = spectre

global gnd

ahdl_include "nfet.va"
ahdl_include "res.va"

nfet1 (n2 n1 gnd) bal_nFET

v1 (n3 gnd) vsource dc=400m
v2 (n1 gnd) vsource dc=400m
r1 (n2 n3) res r=1 

saveNodes options save=allpub
save r1:currents
//dc1 dc
paramSwp dc start=0 stop=400m param=dc dev=v2
//paramSwp dc start=1 stop=1001 param=r[0] dev=r1
//trantran tran stop=100n 

