// netlist file
// sram circuit

simulator lang = spectre

global gnd

ahdl_include "nfet.va"
ahdl_include "pfet.va"

nfet1 (n2 n1 gnd) bal_nFET
pfet1 (n2 n1 n3) bal_pFET
nfet2 (n1 n2 gnd) bal_nFET
pfet2 (n1 n2 n3) bal_pFET

// access transistors
nfet3 (n1 n4 n5) bal_nFET
nfet4 (n2 n4 n6) bal_nFET

v1 (n3 gnd) vsource dc=400m
// BL and BLN
v2 (n5 gnd) vsource dc=0m
v3 (n6 gnd) vsource dc=400m

// WL
//v4 (n4 gnd) vsource dc=0m
v4 (n4 gnd) vsource type=pulse dc=0 val0=0 val1=400m width=20n period=40n rise=1n fall=1n

// initial condition
ic n1=400m
saveNodes options save=allpub

//paramSwp dc start=0 stop=400m param=dc dev=v4
trantran tran stop=100n
 

