// Generated for: spectre
// Generated on: Jun 23 15:22:46 2015
// Design library name: tmdc_fet
// Design cell name: sram
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters Vsup=0.5

// Library name: tmdc_fet
// Cell name: inverter
// View name: schematic
subckt inverter In Out
    I8 (Out In 0) TMDC_nFET
    I7 (Out In vdd!) TMDC_pFET
ends inverter
// End of subcircuit definition.

// Library name: tmdc_fet
// Cell name: sram
// View name: schematic
V1 (WL 0) vsource type=pulse val0=0 val1=0.5V period=1n delay=100.0p \
        rise=100.0p fall=100.0p width=500.0p
V0 (vdd! 0) vsource dc=Vsup type=dc
C1 (NBL 0) capacitor c=100.0a
C0 (BL 0) capacitor c=100.0a
I3 (NBL WL NBL_internal) TMDC_nFET
I2 (BL WL BLinternal) TMDC_nFET
I1 (NBL_internal BLinternal) inverter
I0 (BLinternal NBL_internal) inverter
ic NBL_internal=0.5 NBL=0.5 BL=0.5 BLinternal=0 
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
ahdl_include "nfet.va"
ahdl_include "pfet.va"
