// Generated for: spectre
// Generated on: Jun 22 16:14:09 2015
// Design library name: nmos2
// Design cell name: pmos2_test
// Design view name: schematic
simulator lang=spectre
global 0
parameters Vg=-0.5 Vd=-0.5

// Library name: nmos2
// Cell name: pmos2_test
// View name: schematic
I5 (net7 net3 0) TMDC_pFET
V1 (net7 0) vsource dc=Vd type=dc
V0 (net3 0) vsource dc=Vg type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc param=Vd start=-0.5 stop=0 write="spectre.dc" oppoint=rawfile \
    maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
save I5:Drain 
saveOptions options save=allpub
ahdl_include "pfet.va"
